US08349966B2
Dodecyl chloroacetate.
The mixture of 1-dodecanol (0.2 mol, 37.27 g), chloroacetic acid (0.2 mol, 18.9 g), benzene (200 ml) and sulfuric acid (2 ml) was refluxed for 12 hrs. After the reaction, the mixture was washed with 25% Na2CO3 (100 ml). The organic layer was dried with magnesium sulfate and then evaporated, the remaining liquid was distilled under vacuum to provide a colorless oil (bp 150° C./3 mmHg) in 90% yield.

reactant | 1-dodecanol | 0.2 mol, 37.27 g | C(CCCCCCCCCCC)O | C12H26O
reactant | chloroacetic acid | 0.2 mol, 18.9 g | ClCC(=O)O | C2H3ClO2
reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | Dodecyl chloroacetate | 90% yield | ClCC(=O)OCCCCCCCCCCCC | C14H27ClO2
